US04385177
Z-2-(N-Diphenylmethoxycarbamoylmethoxyimino)-2-(fur-2-yl) acetic acid
This was prepared from diphenylmethyl chloroacetohydroxamate and Z-2-(fur-2-yl)-2-hydroxyiminoacetic acid by the method described in Preparation 4; m.p. 138°-140° (from carbon tetrachloride-dichloromethane), λmax (EtOH) 273.5 nm (ε13,900), νmax (CHBr3) 3350 (NH), ca 3600-2100 (bonded OH), 1750 and 1728 (CO2H), 1690 cm-1 (CONH), τ(DMSO d6) include 2.09, 3.20 and 3.30 (α-furyl), 2.4-2.8 (Ph), 4.00 (Ph2CH), 5 49 (CH2). Yield 17%.

reactant | diphenylmethyl chloroacetohydroxamate | ClCC(=O)NOC(C1=CC=CC=C1)C1=CC=CC=C1 | C15H14ClNO2
reactant | Z-2-(fur-2-yl)-2-hydroxyiminoacetic acid | O1C(=CC=C1)/C(/C(=O)O)=N/O | C6H5NO4
reactant | carbon tetrachloride dichloromethane | C(Cl)(Cl)(Cl)Cl.ClCCl
reactant | CHBr3 | C(Br)(Br)Br | CHBr3
solvent | DMSO | CS(=O)C | C2H6OS
solvent | EtOH | CCO | C2H6O
product | Z-2-(N-Diphenylmethoxycarbamoylmethoxyimino)-2-(fur-2-yl) acetic acid | Yield 17% | C1(=CC=CC=C1)C(ONC(=O)CO\N=C(/C(=O)O)\C=1OC=CC1)C1=CC=CC=C1 | C21H18N2O6
